US04520027
A mixture of ethyl thiophene-2-carboxylate (12.0 g.) and ethylenediamine (15.4 ml.) was heated at 95°-100° C. for 48 hours. Excess ethylenediamine was removed under reduced pressure and the residue was dissolved in water (150 ml.). The insoluble material [bis(carboxamide)derivative] was removed by filtration. Evaporation of the filtrate gave a residue which was dissolved in toluene (50 ml.). The mixture was evaporated to give N-(2-aminoethyl)-thiophene-2-carboxamide as an oil (12.0 g.) essentially pure by TLC (Rf 0.90; SiO2 : 10% v/v methanol in chloroform as eluant) which was used without purification.

reactant | ethyl thiophene-2-carboxylate | 12.0 g | S1C(=CC=C1)C(=O)OCC | C7H8O2S
reactant | ethylenediamine | 15.4 ml | C(CN)N | C2H8N2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | N-(2-aminoethyl)-thiophene-2-carboxamide | NCCNC(=O)C=1SC=CC1 | C7H10N2OS
